US05292452
A suspension of 0.977 g of methyltriphenylphosphonium bromide in 12 ml of tert.-butyl methyl ether was treated with 0.308 g of potassium tert.-butylate while stirring and gassing with nitrogen and stirred at room temperature for a further 1.5 hours. The yellow suspension was treated dropwise at 2° C. within 15 minutes with a solution of 0.439 g of trans-4-(3',4'-difluoro-4-biphenylyl)cyclohexanecarboxaldehyde in 12 ml of tert.-butyl methyl ether, stirred at room temperature for a further 1.5 hours and concentrated in a vacuum. Purification of the residue by chomatography on silica gel with methylene chloride and subsequent two-fold recrystallization from hexane gave 0.118 g of pure 4-(trans-4-vinylcyclohexyl)-3',4'-difluorobiphenyl; m.p. (C-N) 97.0° C., cl.p. (N-I) 84.7° C.

reactant | trans-4-(3',4'-difluoro-4-biphenylyl)cyclohexanecarboxaldehyde | 0.439 g | FC=1C=C(C=CC1F)C1=CC=C(C=C1)[C@@H]1CC[C@H](CC1)C=O | C19H18F2O
reactant | tert.-butyl methyl ether | 12 ml | COC(C)(C)C | C5H12O
reactant | tert.-butyl methyl ether | 12 ml | COC(C)(C)C | C5H12O
catalyst | methyltriphenylphosphonium bromide | 0.977 g | [Br-].C[P+](C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1
product | 4-(trans-4-vinylcyclohexyl)-3',4'-difluorobiphenyl | 0.118 g | C(=C)[C@@H]1CC[C@H](CC1)C1=CC=C(C=C1)C1=CC(=C(C=C1)F)F | C20H20F2
